US05521192
Under a nitrogen atmosphere a stirred solution of 4.8 grams (0.014 mole) of 5-hydroxy-5-[3-(4-trifluoromethylphenyl)phenyl]hexanenitrile in 40 mL (0.760 mole) of acetonitrile was cooled to 0° C., and 9.4 grams (0.086 mole) of trimethyl-silyl chloride was added slowly. Upon completion of addition, the reaction mixture was stirred for about 15 minutes, and then 40 mL of hexane was added. After this time the reaction mixture was again stirred for 15 minutes, and 13.0 grams (0.086 mole) of sodium iodide was added. The reaction mixture was then stirred as it was allowed to warm to ambient temperature. Thin layer chromatographic analysis of the reaction mixture indicated that the reaction was not complete. The reaction mixture was then warmed to reflux where it stirred for two hours. After this time the reaction mixture was allowed to cool to ambient temperature as it stirred for about 18 hours. The reaction mixture was then partitioned between ethyl acetate and water. The organic layer was separated and washed with an aqueous dilute solution of sodium metabisulfite to remove iodine. The organic layer was then dried with sodium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residue. The residue was subjected to column chromatography on silica gel, using 25% ethyl acetate in hexane as the eluant. The product-containing fractions were combined and concentrated under reduced pressure, yielding about 3.2 grams of 5-[3-(4-trifluoromethylphenyl)phenyl]hexanenitrile. The NMR spectrum was consistent with the proposed structure.

reactant | 5-hydroxy-5-[3-(4-trifluoromethylphenyl)phenyl]hexanenitrile | 0.014 mole, 4.8 grams | OC(CCCC#N)(C)C1=CC(=CC=C1)C1=CC=C(C=C1)C(F)(F)F | C19H18F3NO
reactant | acetonitrile | 0.760 mole, 40 mL | C(C)#N | C2H3N
reactant | trimethyl-silyl chloride | 0.086 mole, 9.4 grams | C[Si](C)(C)Cl | C3H9ClSi
reactant | sodium iodide | 0.086 mole, 13.0 grams | [I-].[Na+]
solvent | hexane | 40 mL | CCCCCC | C6H14
product | 5-[3-(4-trifluoromethylphenyl)phenyl]hexanenitrile | about 3.2 grams | FC(C1=CC=C(C=C1)C=1C=C(C=CC1)C(CCCC#N)C)(F)F | C19H18F3N
